US04780538
In a manner similar to that previously described, 96.4 grams (0.9 mole) of o-toluidine is added dropwise to a solution of 116 grams (1 mole) of methyl acetoacetate and the reaction mixture allowed to stand overnight to obtain methyl 3-(2-methylphenyl)aminocrotonate.

reactant | o-toluidine | 0.9 mole, 96.4 grams | NC=1C(=CC=CC1)C | C7H9N
reactant | methyl acetoacetate | 1 mole, 116 grams | C(CC(=O)C)(=O)OC | C5H8O3
product | methyl 3-(2-methylphenyl)aminocrotonate | CC1=C(C=CC=C1)N\C(=C/C(=O)OC)\C | C12H15NO2
